* C:\Users\Michal-Dell\Documents\LTspiceXVII\Draft2.asc
R1 N004 N007 0,01
R2 NC_01 N002 40K
R3 N002 0 60K
V1 VREF 0 2.5
V2 N007 0 5
XU1 N005 N003 N001 0 VSENSE LT1078
V3 N001 0 5
R5 N003 N004 2K
R6 N005 N007 2K
R7 0 N005 1Meg
R8 VSENSE N003 1Meg
XU2 VCONTR N006 N001 0 VOUT LT1078
V4 VCONTR 0 2.8
I1 VLOAD 0 0.8
M1 VLOAD VOUT N004 N004 PMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Michal-Dell\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0.1
.lib LTC.lib
.backanno
.end
